simulator lang=spectre

ahdl_include "RRAM_v0.va"

Vin (in 0) vsource type=pulse val0=-1 val1=1 delay=1u rise=4m fall=4m width=1u period=8m+2u
X1 (in 0) RRAM_v0

// DC analysis
dc dc dev=Vin start=-1 stop=1 lin=100 

// transient simulation
tran tran stop=8m 
