simulator lang=spectre

ahdl_include "hys.va"

V1 (1 0) vsource dc=1 type=sine sinedc=0 ampl=0.7 freq=1k
X1 (1 0) hys

// DC analysis
dc1 dc dev=V1 start=-1 stop=1 lin=100 
dc2 dc dev=V1 start=1 stop=-1 lin=100 

// transient simulation
tran tran stop=2m 
